US04108668
1-Carbamoylmethyl-6-methoxylepidinium chloride (Intermediate)
In 30 ml of dioxane 17.3 g of 6-methoxylepidine (0.1 mole) and 11.3 g of chloroacetamide (0.12 mole) were refluxed for 8 hours and the precipitated crystals were collected, washed with acetone and dried. Yield, 24.18 g (8.78%); M.p., 240°-241° C.

reactant | 6-methoxylepidine | 0.1 mole | COC=1C=C2C(=CC=NC2=CC1)C | C11H11NO
reactant | chloroacetamide | 0.12 mole, 11.3 g | ClCC(=O)N | C2H4ClNO
solvent | dioxane | 30 ml, 17.3 g | O1CCOCC1 | C4H8O2
product | 1-Carbamoylmethyl-6-methoxylepidinium chloride | [Cl-].C(N)(=O)C[N+]1=CC=C(C)C2=CC(=CC=C12)OC | InChI=1S/C13H14N2O2.ClH/c1-9-5-6-15(8-13(14)16)12-4-3-10(17-2)7-11(9)12;/h3-7H,8H2,1-2H3,(H-,14,16);1H
